US09255100B2
N-cyclopropyl-2-methyl-4-{6-(1-phenylethenyl)-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}benzamide
To a stirred solution of 24 mg (50 μmol) 4-{6-bromo-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-N-cyclopropyl-2-methylbenzamide which was prepared according to intermediate example 247a in 1 mL THF is dropwise added 1.0 mL (0.5 mmol) of a 0.5 M solution of bromo(1-phenylethenyl)magnesium in THF at rt. After stirring overnight at rt, the mixture is heated at 50° C. and stirred for 3 more days to give after working up and purification 1.7 mg (5%) of the title compound.

reactant | 4-{6-bromo-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}-N-cyclopropyl-2-methylbenzamide | 50 μmol, 24 mg | BrC=1C=C(C=2N(N1)C(=CN2)C2=CC(=C(C(=O)NC1CC1)C=C2)C)NCCC(F)(F)F | C20H19BrF3N5O
reactant | bromo(1-phenylethenyl)magnesium | Br[Mg]C(=C)C1=CC=CC=C1
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-cyclopropyl-2-methyl-4-{6-(1-phenylethenyl)-8-[(3,3,3-trifluoropropyl)amino]imidazo[1,2-b]pyridazin-3-yl}benzamide | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2NCCC(F)(F)F)C(=C)C2=CC=CC=C2)C)=O | C28H26F3N5O
